US05155122
To a solution of 2.6 g (0.044 mole) of guanidine in absolute ethanol (100 ml) is added dropwise a solution of 6.2 g (0.022 mole) of 3,5-bis(1,1-dimethylethyl) -N,4-dihydroxybenzenecarboximidoyl chloride in absolute ethanol (60 ml). The mixture is stirred at room temperature for 18 hours, then evaporated to dryness (vacuum). The oil is dissolved in ethyl acetate (125 ml) and poured into water (125 ml). While stirring, the solution is acidified (pH 4.0-5.0) with 1N hydrochloric acid. The organic layer is separated, washed with water (2×100 ml), and dried (anhydrous magnesium sulfate). Evaporation of the organic layer leaves 5.0 g of crude material. Purification by flash chromatography (silica gel, ethyl acetate/hexane elution) gives 1.0 g (16%) of analytically pure 4-(5-amino-1,2,4-oxadiazol-3-yl)-2,6-bis(1,1-dimethylethyl)phenol, mp 202°-204° C.

reactant | guanidine | 0.044 mole, 2.6 g | NC(=N)N | CH5N3
reactant | 3,5-bis(1,1-dimethylethyl) -N,4-dihydroxybenzenecarboximidoyl chloride | 0.022 mole, 6.2 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(=NO)Cl | C15H22ClNO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(5-amino-1,2,4-oxadiazol-3-yl)-2,6-bis(1,1-dimethylethyl)phenol | NC1=NC(=NO1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23N3O2
